US07563905B2
The Synthesis of 4-benzyl-3-[(4-chlorobenzyl)thio]-5-(2-furyl)-4H-1,2,4-triazole
This compound was synthesized using the same methodology as described in Example 1 above, using 2-furancarboxylic acid hydrazide, benzyl isothiocyanate and 4-chlorobenzyl bromide as the starting materials. (M+H)+−382.

reactant | 2-furancarboxylic acid hydrazide | O1C(=CC=C1)C(=O)NN | C5H6N2O2
reactant | benzyl isothiocyanate | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | 4-chlorobenzyl bromide | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
product | 4-benzyl-3-[(4-chlorobenzyl)thio]-5-(2-furyl)-4H-1,2,4-triazole | C(C1=CC=CC=C1)N1C(=NN=C1C=1OC=CC1)SCC1=CC=C(C=C1)Cl | C20H16ClN3OS
